US08669271B2
4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester
N-Bromo-succinimide (510 mg) is added to (4-(2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester (830 mg) in N,N-dimethylformamide (20 mL). The mixture is heated to 50° C. and stirred at this temperature for 4 h. After cooling to room temperature over night, ethyl acetate and water are added and the mixture is extracted with ethyl acetate. The organic phase is washed with sodium thiosulfate solution and water and dried (Na2SO4). The solvent is evaporated and the residue is triturated with diisopropyl ether to afford the title compound as a white solid. Yield: 750 mg (71% of theory); LC (method 1): tR=1.43 min; Mass spectrum (ESI+): m/z=368 [M+H]+.

reactant | N-Bromo-succinimide | 510 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-(2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | 830 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=CC=C2 | C17H23NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C17H22BrNO3
